US06211215B1
In substantially the same manner as in Working Example 37, 1-(4-hydroxyphenyl)imidazole was allowed to react with 4-chloromethyl-2-[(E)-2-phenylethenyl]oxazole to give 4-[4-(1-imidazolyl)phenoxymethyl]-2-[(E)-2-phenylethenyl]oxazole. The yield was 68%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 160-162° C.

reactant | 1-(4-hydroxyphenyl)imidazole | OC1=CC=C(C=C1)N1C=NC=C1 | C9H8N2O
reactant | 4-chloromethyl-2-[(E)-2-phenylethenyl]oxazole | ClCC=1N=C(OC1)\C=C\C1=CC=CC=C1 | C12H10ClNO
product | 4-[4-(1-imidazolyl)phenoxymethyl]-2-[(E)-2-phenylethenyl]oxazole | yield was 68% | N1(C=NC=C1)C1=CC=C(OCC=2N=C(OC2)\C=C\C2=CC=CC=C2)C=C1 | C21H17N3O2
